US05780465
34. Preparation of 5-(2,2-Dimethyl-1-methoxyindan-1-yl)-4-(methylthio)pyrimidine (Cpd. 56)
Sodium hydride (0.16 g of 60 percent in mineral oil, 4.0 mmol) was added with stirring to a solution of 1.0 g (3.5 mmol) of 5-(2,2-dimethyl-1-hydroxyindan-1-yl)-4-(methylthio)pyrimidine in 10 mL of tetrahydrofuran. After the hydrogen evolution and exotherm were complete, 0.43 g (3 mmol) of methyl iodide was added and the mixture was allowed to react overnight at ambient temperature. The mixture was then poured into 20 mL of cold water and the resulting mixture was extracted with ethyl acetate. The organic extract was washed with water and then with concentrated aqueous sodium hydroxide, was dried over magnesium sulfate, and was concentrated by evaporation under reduced pressure. The oily solid residue was extracted with hexane to remove cold hexane insolubles and then hot hexane insolubles were removed by filtration of a hot hexane solution. The hexane was removed from the filtrate by evaporation under reduced pressure to obtain 0.87 g of the title compound as a white solid melting at 130°-132° C.

reactant | Sodium hydride | 4.0 mmol, 0.16 g | [H-].[Na+]
reactant | 5-(2,2-dimethyl-1-hydroxyindan-1-yl)-4-(methylthio)pyrimidine | 3.5 mmol, 1.0 g | CC1(C(C2=CC=CC=C2C1)(O)C=1C(=NC=NC1)SC)C | C16H18N2OS
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 3 mmol, 0.43 g | CI | CH3I
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 5-(2,2-Dimethyl-1-methoxyindan-1-yl)-4-(methylthio)pyrimidine | 0.87 g | CC1(C(C2=CC=CC=C2C1)(OC)C=1C(=NC=NC1)SC)C | C17H20N2OS
